US07494992B2
Preparation 16: 2,5-dimethyl-3-piperazin-1-ylpyrazine
To a solution of 2,5-dimethyl-3-[4-(phenylmethyl)piperazin-1-yl]pyrazine (Preparation 17, 1.14 g, 4.04 mmol) in methanol (80 ml) was added ammonium formate (1.27 g, 20.2 mmol) followed by palladium (10% w/w on carbon, 0.17 g) under a nitrogen atmosphere. The reaction mixture was heated under reflux, after 2.5 h, more ammonium formate (0.64 g, 10.1 mmol) and palladium (0.06 g) were added. The reaction mixture was filtered through Celite® washed with methanol and concentrated in vacuo. The crude product was purified by flash chromatography using silica gel eluting with methanol:dichloromethane (8:92 and then 10:90) and then methanol:dichloromethane:0.88 ammonia solution (10:90:1). The title compound was obtained as a white solid (0.35 g, 45%).

reactant | 2,5-dimethyl-3-[4-(phenylmethyl)piperazin-1-yl]pyrazine | 4.04 mmol, 1.14 g | CC1=NC=C(N=C1N1CCN(CC1)CC1=CC=CC=C1)C | C17H22N4
reactant | ammonium formate | 20.2 mmol, 1.27 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 10.1 mmol, 0.64 g | C(=O)[O-].[NH4+]
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium | 0.17 g | [Pd] | Pd
catalyst | palladium | 0.06 g | [Pd] | Pd
product | 2,5-dimethyl-3-piperazin-1-ylpyrazine | CC1=NC=C(N=C1N1CCNCC1)C | C10H16N4
